US07683176B2
Ethyl 5-(3-(4-chloro-3-(trifluoromethyl)benzenesulfonamido)-5-chloropyridin-2-yl)-4-isopropyl-4H-1,2,4-triazole-3-carboxylate
To a vial containing ethyl(isopropylcarbamoyl)formate (160 mg, 1.0 mmol) was added thionyl chloride (1.0 mL, 13.8 mmol). The vial was capped with a teflon coated septa and heated to 80° C. for 5 h. After cooling to room temperature, the volatiles were removed in vacuo. A solution of 4-chloro-N-(5-chloro-2-(hydrazinecarbonyl)pyridine-3-yl)-3-(trifluoromethyl)benzenesulfonamide (342 mg, 0.80 mmol) in toluene (3 mL) was added. The mixture was stirred at 40° C. for 16 h. After cooling to room temperature, the toluene was removed in vacuo. Ethanol (9 mL) and triethylamine (1 mL) were added, and the solution heated to 90° C. for 4 h. After cooling to room temperature, the volatiles were removed in vacuo, and the resulting residue purified by flash chromatography on 4 g of silica gel (0→20% gradient of MeOH in DCM). The pure fractions were collected, and the solvent removed in vacuo to afford the title compound (14 mg, 3% yield). HPLC retention time=3.17 minutes. 1H NMR (400 MHz, CDCl3) δ 8.39 (d, J=2.4, 1H), 8.19 (d, J=2.4, 1H), 8.04 (d, J=2.4, 1H), 7.89 (dd, J=2.0, 8.4, 1H), 7.53 (d, J=8.0, 1H), 5.66 (sept, J=7.0, 1H), 4.52 (q, J=7.4, 2H), 1.52 (d, J=7.0, 6H), 1.50 (t, J=7.4, 3H). MS (ES) [M+H]+ expected 552.0, found 552.0.

reactant | ethyl(isopropylcarbamoyl)formate | 1.0 mmol, 160 mg | C(C)OC(=O)C(NC(C)C)=O | C7H13NO3
reactant | thionyl chloride | 13.8 mmol, 1.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-chloro-N-(5-chloro-2-(hydrazinecarbonyl)pyridine-3-yl)-3-(trifluoromethyl)benzenesulfonamide | 0.80 mmol, 342 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)NN)C(F)(F)F | C13H9Cl2F3N4O3S
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5-(3-(4-chloro-3-(trifluoromethyl)benzenesulfonamido)-5-chloropyridin-2-yl)-4-isopropyl-4H-1,2,4-triazole-3-carboxylate | 14 mg, 3% yield | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C=1N(C(=NN1)C(=O)OCC)C(C)C)C(F)(F)F | C20H18Cl2F3N5O4S
